US08232410B2
Synthesis of 6-diethylamino-5-(4-methoxybenzoyl)amino-2-(cyclohexyl)-1H-benzo[d]imidazole
5-Amino-6-diethylamino-2-(cyclohexyl)-1H-benzo[d]-imidazole (28 mg, 0.1 mmol) was reacted with 4-methoxybenzoyl chloride (17 mg, 0.1 mmol) in the same manner as that described above to give the desired product (33 mg, 79% yield) as white powder: 1H-NMR (300 MHz, CDCl3) δ 0.97 (t, 6H, J=7.2 Hz), 1.16 (m, 3H), 1.57-1.70 (m, 5H), 1.98 (m, 2H), 2.87 (m, 1H), 3.01 (q, 4H, J=7.2 Hz), 7.05 (d, 2H, J=8.7 Hz), 7.57 (s, 1H), 7.96 (d, 2H, J=8.7 Hz), 8.94 (s, 1H); ESI MS m/z 421.0 [M+H]+.

reactant | 5-Amino-6-diethylamino-2-(cyclohexyl)-1H-benzo[d]-imidazole | 0.1 mmol, 28 mg | NC1=CC2=C(NC(=N2)C2CCCCC2)C=C1N(CC)CC | C17H26N4
reactant | 4-methoxybenzoyl chloride | 0.1 mmol, 17 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 6-diethylamino-5-(4-methoxybenzoyl)amino-2-(cyclohexyl)-1H-benzo[d]imidazole | 33 mg, 79% yield | C(C)N(C=1C(=CC2=C(NC(=N2)C2CCCCC2)C1)NC(C1=CC=C(C=C1)OC)=O)CC | C25H32N4O2
